US07608629B2
2,4,6-Trifluoro-N-[6-(piperidin-4-yloxy)pyridin-2-yl]-benzamide
Add trifluoroacetic acid (20 mL) to a solution of 4-[6-(2,4,6-trifluoro-benzoylamino)-pyridin-2-yloxy]-piperidine-1-carboxylic acid tert-butyl ester (preparation 92, 2.482 g, 5.5 mmol) in methylene dichloride (50 mL) and stir for 30 min. Remove volatiles, dissolve the residue in methylene dichloride, adjust pH>11 with 1N NaOH, extract with methylene dichloride three times. Combine the organic layers, dry over Na2SO4, filter and concentrate to give a residue. Recrystallization (ethanol-H2O) provides 1.625 g of the title compound as a white solid. Concentrate themother liquor and further purify by chromatography (silica gel, eluting with 5.5% 2M NH3-methanol in CH2Cl2) to provide another 200 mg (total yield 94%) of the title compound: mass spectrum (ion spray): m/z=352.0 (M+1); 1H NMR (CDCl3, ppm): 8.35 (br, 1H), 7.68 (d, br, 1H), 7.46 (t, 1H), 6.60 (m, 2H), 6.34 (d, 1H), 4.84 (m, 1H), 2.93 (m, 2H), 2.59 (m, 2H), 1.85 (m, 2H), 1.46 (m, 3H).

reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[6-(2,4,6-trifluoro-benzoylamino)-pyridin-2-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | 5.5 mmol, 2.482 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC(=CC=C1)NC(C1=C(C=C(C=C1F)F)F)=O | C22H24F3N3O4
reactant | NaOH | 1N | [OH-].[Na+]
solvent | methylene dichloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2,4,6-Trifluoro-N-[6-(piperidin-4-yloxy)pyridin-2-yl]-benzamide | 1.625 g, yield 94% | FC1=C(C(=O)NC2=NC(=CC=C2)OC2CCNCC2)C(=CC(=C1)F)F | C17H16F3N3O2
